US07494999B2
Indane-2-carboxylic acid methyl ester (550 mg, 3.125 mmol) was dissolved in THF (20 mL). At −78° C. LiHMDS (1M solution in THF, 3.75 mL) was added into the reaction mixture. The solution was stirred for 15 min at −78° C., warmed to 0° C. for 15 min and then −78° C. for an additional 15 min. Methyl iodide (250 μL, 4.01 mmol) was then added into the reaction mixture followed by stirring at −78° C. for 15 min, room temperature for 30 min and then quenched with saturated ammonium chloride. The solution was then diluted with diethyl ether and washed with saturated sodium bicarbonate, brine, dried (MgSO4), filtered and concentrated. The crude mixture was then purified by silica gel flash column chromatography to afford 2-methyl-indan-2-carboxylic acid methyl ester (52 mg, 9%) as a white solid. 1H NMR (400 MHz, CDCl3) 7.16 (m, 4H), 3.72 (t, 3H), 3.48 (d, 2H), 2.81 (d, 2H), 1.36 (s, 3H).

reactant | Indane-2-carboxylic acid methyl ester | 3.125 mmol, 550 mg | COC(=O)C1CC2=CC=CC=C2C1 | C11H12O2
reactant | LiHMDS | 1M, 3.75 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Methyl iodide | 4.01 mmol, 250 μL | CI | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-methyl-indan-2-carboxylic acid methyl ester | 52 mg, 9% | COC(=O)C1(CC2=CC=CC=C2C1)C | C12H14O2
